US06716851B2
4-(5-Methoxy-2-methylanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 5-methoxy-2-methylaniline (33 mg, 0.243 mmol) similar to Example 13 and isolated as a tan oil (45 mg, 60%). 1H NMR (CDCl3): 8.78-8.77 (m, 1H), 8.44 (d, J=8.1 Hz, 1H), 7.81-7.75 (m, 1H), 7.34-7.30 (m, 1H), 7.16 (d, J=8.4 Hz, 1H), 6.91 (d, J=2.7 Hz, 2H), 6.72 (dd, J=2.7, 8.7 Hz, 1H), 6.30 (s, 1H), 3.76 (s, 3H), 2.42 (s, 3H), 2.17 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 5-methoxy-2-methylaniline | 0.243 mmol, 33 mg | COC=1C=CC(=C(N)C1)C | C8H11NO
product | 4-(5-Methoxy-2-methylanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | COC=1C=CC(=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C1)C | C18H18N4O
